US07977358B2
A) ((R)-1-Benzyl-pyrrolidin-3-yl)-methyl-(tetrahydro-pyran-4-yl)-amine
To a solution of (R)-1-benzyl-pyrrolidin-3-ylamine (1.0 g, 6 mmol), tetrahydro-4H-pyran-4-one (0.6 g, 6 mmol) in CH2Cl2 (15 ml) was added acetic acid (0.7 ml, 11 mmol) and sodium triacetoxyborohydride (1.4 g, 7 mmol) and the reaction stirred for 1 h. EtOH (15 ml) was added to the reaction, followed by formaldehyde (1 ml, 36% solution in water) and finally sodium cyanoborohydride (0.4 g, 7 mmol) and the reaction stirred for a further 15 minutes. The reaction was then concentrated, the residue redissolved in CH2Cl2, washed with saturated NaHCO3, dried (Na2SO4) and concentrated. Purification by flash column chromatography (CH2Cl2:MeOH 9:1) afforded the title product (0.7 g, 44%) as a brown oil. MS: 275.2 (MH+).

reactant | (R)-1-benzyl-pyrrolidin-3-ylamine | 6 mmol, 1.0 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | tetrahydro-4H-pyran-4-one | 6 mmol, 0.6 g | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 11 mmol, 0.7 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7 mmol, 1.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 1 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 7 mmol, 0.4 g | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | EtOH | 15 ml | CCO | C2H6O
product | ((R)-1-Benzyl-pyrrolidin-3-yl)-methyl-(tetrahydro-pyran-4-yl)-amine | 0.7 g, 44% | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C1CCOCC1)C | C17H26N2O
